US07601716B2
7-bromo-2,3-dihydro-1H-[1,8]naphthyridin-4-one
3-(6-Bromo-pyridin-2-ylamino)propionic acid (5.0 g) was combined with Eaton's reagent (100 mL) in a ratio of 5 g 3-(6-bromo-pyridin-2-ylamino)propionic acid per 100 mL Eaton's reagent. The resulting mixture was heated at 75° C. for 2.5 hours. Ice cold water (50 mL) was added to the reaction mixture, followed by aqueous NaOH (50% w/w) to pH 12. The mixture was then extracted twice with ethyl acetate (200 mL) and the combined organic phases were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The mixture was purified by silica gel chromatography using a gradient of 0-80% ethyl acetate/hexane as the eluting solvent to give the title compound as a yellow solid (34% yield). M.p. 196-197° C., LCMS: m/z=227.26 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 2.57 (t, J=7.2 Hz, 2H), 3.34-3.49 (m, 2H), 6.80 (d, J=8.0 Hz, 1H), 7.74 (d, J=8.0 Hz, 1H), 7.96 (bs, 1H).

reactant | 3-(6-Bromo-pyridin-2-ylamino)propionic acid | 5.0 g | BrC1=CC=CC(=N1)NCCC(=O)O | C8H9BrN2O2
reactant | Eaton's reagent | 100 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | 3-(6-bromo-pyridin-2-ylamino)propionic acid | 5 g | BrC1=CC=CC(=N1)NCCC(=O)O | C8H9BrN2O2
reactant | Eaton's reagent | 100 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
reactant | NaOH | [OH-].[Na+]
product | 7-bromo-2,3-dihydro-1H-[1,8]naphthyridin-4-one | 34% yield | BrC1=CC=C2C(CCNC2=N1)=O | C8H7BrN2O
